US06492416B1
The crude product 2-ethyl-2-methyl-5-{4-(methylthio)phenyl}-3(2H)-furanone from the previous Step 3 was dissolved in 50 ml ethanol, 50 ml THF and 50 ml water, and 10 g of OXONE was added thereto. The reaction mixture was stirred overnight at room temperature. Then the insoluble materials were removed by filtration and the filtrate was concentrated in vacuo. The resulting aqueous layer was extracted with dichloromethane (100 ml×1 and 50 ml×2). The organic layer was concentrated under reduced pressure and the resulting residue was purified by column chromatography (hexane/ethylacetate=2:1) to yield 4.5 g of 2-ethyl-2-methyl-5-{4-(methylsufonyl)phenyl}-3(2H)-furanone. NMR: δ0.89 (t, J=7.2 Hz, 3H), 1.48 (s, 3H), 1.91 (q, J=7.2 Hz, 2H), 3.11 (s, 3H), 6.13 (s, 1H), 8.07 (m, 4H).

reactant | 2-ethyl-2-methyl-5-{4-(methylthio)phenyl}-3(2H)-furanone | C(C)C1(OC(=CC1=O)C1=CC=C(C=C1)SC)C | C14H16O2S
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | water | 50 ml | O | H2O
reactant | OXONE | 10 g | OOS(=O)[O-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-ethyl-2-methyl-5-{4-(methylsufonyl)phenyl}-3(2H)-furanone | 4.5 g | C(C)C1(OC(=CC1=O)C1=CC=C(C=C1)S(=O)(=O)C)C | C14H16O4S
